Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Penicillins / Sulfa (Sulfonamide Antibiotics)
 
Attending: ___
 
Chief Complaint:
Headache
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The patient is a ___ year old woman with IgG deficiency and
recently diagnosed PE on apixaban who presents as a transfer 
from
___ out of concern for RCVS.

The patient states that she was in her usual state of health
prior to this past ___.  At that time, she developed acute
onset shortness of breath as well as excruciating pain under her
right breast in the lateral aspect of her right shoulder. She
presented to the emergency room at ___ where a
D-dimer was positive. CTA revealed PE. She was started on 
Lovenox
as a bridge to apixaban. She has been on apixaban 10 mg BID 
since
___. 

The patient was discharged from ___ on ___. 
She states that she has had mild pain in the right chest since
that time but no recurrent episodes of dyspnea.  She has been
taking her apixaban without any missed doses.

Yesterday evening, the patient was watching a movie on the 
couch,
when she developed a sudden onset left-sided frontal headache. 
She states that this was located just above her left eye.  She
states that the pain was excruciating to the point that she 
could
not get off the couch.  She describes the pain as sharp,
throbbing pain.  She notes that when she put her hand on her 
head
she could "feel the throbbing."  The pain seemed to worsen over
the course of approximately 30 minutes.  She notes that it was a
first limited to the area above her left eye but subsequently
spread to involve the entire forehead.

She states that she was sensitive to light during this time and
had trouble opening her eyes.  However, she denies any vision
loss, scintillating lights, fortifications, or diplopia. 

Given her recently diagnosed PE, the patient was brought to ___ via EMS.  There she received morphine which
helped with her pain.  She also underwent CT and CTA of the head
and neck.  This revealed "mild narrowing of the proximal and mid
and severe narrowing of the distal bilateral posterior cerebral
arteries, left greater than right, no aneurysm."  Given these
findings, the patient's case was discussed with the vascular
fellow at ___ who recommended
transfer for further evaluation.

On neurological ROS, the patient denies any significant headache
history.  She notes that she may be had one migraine
approximately 4 months ago but does not routinely get headaches.
She denies dysarthria, dysphagia, lightheadedness, vertigo,
tinnitus or hearing difficulty. Denies difficulties producing or
comprehending speech.  Denies focal weakness, numbness,
parasthesiae. No bowel or bladder incontinence or retention.
Denies difficulty with gait.
 
On general review of systems, the patient denies recent fever or
chills. No night sweats or recent weight loss or gain. Denies
cough, endorses shortness of breath as noted above. Denies
palpitations. Denies nausea, vomiting, diarrhea, constipation or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.
 
Past Medical History:
 IgG deficiency, diagnosed approximately 1 month ago.  She
received a single treatment of IVIG at this time.  She has
received no treatment since.  
- Suspected POTS in the setting of recurrent episodes of syncope
(for ___ years, worse over the past ___ year) - followed by
cardiologist, Dr. ___, on ___. In ___, had SBP > 180 for
a week straight, admitted to ___ and concerned for POTS. 
Subsequently referred to the autonomic neurology division here 
at
___ for further work-up and
evaluation.  She is scheduled for autonomic testing on ___.
 
Social History:
___
Family History:
Parents both alive and healthy. Mother has mild asthma. Older
brother is healthy. Grandfather had MI in his ___. No family or
personal history of miscarriage.
 
Physical Exam:
Day of admission

PHYSICAL EXAMINATION:
=====================
Vitals: T 97.8, HR 71, BP 137/87, RR 19, Sa 100% RA 
General: Sleepy, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx. There is mild tenderness to palpation of the
frontalis muscle bilaterally. 
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Normal work of breathing
Cardiac: RRR, warm, well-perfused
Abdomen: Soft, non-distended
Extremities: No ___ edema.
Skin: No rashes or lesions noted.
 
Neurologic Exam:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors. 

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. Fundoscopic
exam revealed no papilledema, exudates, or hemorrhages.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. No adventitious movements, such as tremor, noted. 
No
asterixis noted.
  Delt Bic Tri WrE  FE  IP Quad Ham  TA ___  ___ 
L  5    ___   5    ___    5    5      5   
R  5    ___   5    ___    5    5      5   

-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense, proprioception throughout. No extinction to 
DSS.
No astereognosis in either hand.

-DTRs: ___ adductors bilaterally 
  Bi Tri ___ Pat Ach
L  2  2    2    3   2
R  2  2    2    3   2
Plantar response was flexor bilaterally.

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF or HKS bilaterally.

-Gait/Station: Deferred

Day of discharge

Vitals: T 97.9, HR 85, BP 128/87, RR 19, Sa 100% RA 
General: Sleepy, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx. No tenderness to palpation of the
frontalis muscle bilaterally. 
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Normal work of breathing
Cardiac: RRR, warm, well-perfused
Abdomen: Soft, non-distended
Extremities: No ___ edema.
Skin: No rashes or lesions noted.
 
Neurologic Exam:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors. 

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. Fundoscopic
exam revealed no papilledema, exudates, or hemorrhages.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. No adventitious movements, such as tremor, noted. 
No
asterixis noted.
  Delt Bic Tri WrE  FE  IP Quad Ham  TA ___  ___ 
L  5    ___   5    ___    5    5      5   
R  5    ___   5    ___    5    5      5   

-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense, proprioception throughout. No extinction to 
DSS.
No astereognosis in either hand.

-DTRs: ___ adductors bilaterally 
  Bi Tri ___ Pat Ach
L  2  2    2    3   2
R  2  2    2    3   2
Plantar response was flexor bilaterally.

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF or HKS bilaterally.

-Gait/Station: Deferred
 
Pertinent Results:
___ 05:21AM BLOOD WBC-10.7* RBC-4.06 Hgb-12.2 Hct-37.0 
MCV-91 MCH-30.0 MCHC-33.0 RDW-12.2 RDWSD-40.9 Plt ___
___ 05:21AM BLOOD Neuts-58.4 ___ Monos-5.1 Eos-4.9 
Baso-0.5 Im ___ AbsNeut-6.24* AbsLymp-3.28 AbsMono-0.54 
AbsEos-0.52 AbsBaso-0.05
___ 05:21AM BLOOD ___ PTT-37.0* ___
___ 05:21AM BLOOD Glucose-97 UreaN-12 Creat-0.7 Na-140 
K-4.2 Cl-104 HCO3-20* AnGap-16
___ 05:21AM BLOOD cTropnT-<0.01
 
Brief Hospital Course:
___ is a ___ year old with history of IgG deficiency 
on IVIG, PE on apixaban (likely provoked given on OCP and PE) 
who presented with initial dull headache that rapidly progressed 
to severe unilateral headache with photophobia, phonophobia and 
nausea. On evaluation at an outside hospital she had imaging 
which showed normal CTH and possible vasoconstriction of her 
PCAs and was thus transferred to ___. At ___ her neurologic 
exam was normal. She was treated with Toradol, Compazine and 
fluids and began to improve. Initially her apixaban was held. 
She had MRI brain with venous and arterial imaging which showed 
no evidence of RCVS, venous thrombus, SAH or any other 
abnormality. She responded well to analgesics and hydration. 
Based on her presentation, we initially considered RCVS as 
potential diagnosis (although not true thunderclap headache) and 
ultimately migraine was likely diagnosis. We started verapamil 
to help with prophylaxis against migraines. We initially 
entertained stopping Celexa given can be associated with RCVS, 
but ultimately did not given lower suspicion for RCVS. 
Psychiatry consult was done as well, and their team recommended 
to continue with Celexa and ask PCP for outpatient psychiatry 
referral. Abixaban, celexa were restarted and patient was 
discharged on Verapamil 120 mg ER daily.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Citalopram 40 mg PO DAILY 
2. Apixaban 10 mg PO BID 

 
Discharge Medications:
1.  DiphenhydrAMINE 25 mg PO Q6H:PRN migraine 
take with Compazine, do not drive after taking  
2.  Naproxen 500 mg PO Q12H:PRN Pain - Moderate Duration: 5 Days 

500 mg BID PRN for headache. Maximum 5 days 
RX *naproxen [EC-Naprosyn] 500 mg 1 tablet(s) by mouth Q12 PRN 
Disp #*10 Tablet Refills:*2 
3.  Prochlorperazine 10 mg PO Q8H:PRN Nausea/Vomiting - First 
Line Duration: 5 Days 
10 mg Q8 PRN for nausea. Maximum duration 5 days 
RX *prochlorperazine maleate [Compazine] 10 mg 1 tablet(s) by 
mouth Q8 PRN Disp #*15 Tablet Refills:*2 
4.  Verapamil SR 120 mg PO Q24H 
RX *verapamil [Calan SR] 120 mg 1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*2 
5.  Apixaban 10 mg PO BID  
6.  Citalopram 40 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Migraine with visual aura

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were hospitalized due to symptoms of headache resulting from 
migraine with aura attack. To decrease risk of future migraines, 
please continue to drink 2L of water daily, get 8 hours of sleep 
at night and do not skip meals.

We are changing your medications as follows:

For migraine prevention: start verapamil 120 mg daily

At the onset of headache, you can take a combination of 
naproxen, Compazine and diphenhydramine (doses below). This can 
be repeated after 6 hours as needed. 

Please take your other medications as prescribed.

Please follow up with Neurology and your primary care physician 
as listed below.

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___